US09062070B2
Step B: (3S)-tert-butyl 3-(acetylthiomethyl)-4-(2-chloro-2-(3-cyano-4-fluoro-2-methylphenyl)ethyl)piperazine-1-carboxylate
To a solution of (3S)-tert-butyl 3-(acetylthiomethyl)-4-(2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl)piperazine-1-carboxylate (30.8 mg, 0.0680 mmol) in toluene (0.62 mL) was added thionyl chloride (14.9 μL, 0.205 mmol). The mixture was cooled with an ice bath and then pyridine (22.1 μL, 0.273 mmol) was added dropwise. The reaction mixture was stirred at 0° C. for 20 min, and then allowed to warm to room temperature over an hour and finally heated at 70° C. for 30 min. The reaction mixture was concentrated and the residue was diluted with ethyl acetate, washed with a minimum amount of saturated sodium bicarbonate aqueous solution, and then brine. The organic layer was separated, filtered through a pad of anhydrous sodium sulfate and concentrated. Used directly in the next step.

reactant | (3S)-tert-butyl 3-(acetylthiomethyl)-4-(2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl)piperazine-1-carboxylate | 0.0680 mmol, 30.8 mg | C(C)(=O)SC[C@@H]1CN(CCN1CC(O)C1=C(C(=C(C=C1)F)C#N)C)C(=O)OC(C)(C)C | C22H30FN3O4S
reactant | thionyl chloride | 0.205 mmol, 14.9 μL | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.273 mmol, 22.1 μL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 0.62 mL | C1(=CC=CC=C1)C | C7H8
product | (3S)-tert-butyl 3-(acetylthiomethyl)-4-(2-chloro-2-(3-cyano-4-fluoro-2-methylphenyl)ethyl)piperazine-1-carboxylate | C(C)(=O)SC[C@@H]1CN(CCN1CC(C1=C(C(=C(C=C1)F)C#N)C)Cl)C(=O)OC(C)(C)C | C22H29ClFN3O3S
